US07579469B2
To a solution of [1,1-difluoro-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-oxopentyl]phosphonic acid diethyl ester (1.0 g) in methanol (12.0 mL) was added a solution of sodium hydroxide (0.04 g) in water (1 mL). The mixture was stirred at room temperature for 30 minutes. The mixture was diluted with hexanes (50 mL) and water (50 mL) and the organic phase was separated, dried, filtered, and evaporated in vacuo to give 1,1,-difluoro-4-methyl-4-(2-methoxy-5-fluorophenyl)pentan-2-one (0.63 g) as an oil which was used without additional purification.

reactant | [1,1-difluoro-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-oxopentyl]phosphonic acid diethyl ester | 1.0 g | C(C)OP(OCC)(=O)C(C(CC(C)(C)C1=C(C=CC(=C1)F)OC)=O)(F)F | C17H24F3O5P
reactant | sodium hydroxide | 0.04 g | [OH-].[Na+]
solvent | methanol | 12.0 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
solvent | water | 50 mL | O | H2O
product | 1,1,-difluoro-4-methyl-4-(2-methoxy-5-fluorophenyl)pentan-2-one | 0.63 g | FC(C(CC(C)(C1=C(C=CC(=C1)F)OC)C)=O)F | C13H15F3O2
